US04820691
A. 2-Propyl-1,3-dithiane
n-Butyl lithium (2.5M, 56.32 ml, 141 mmol) was added dropwise to a 500 ml tetrahydrofuran solution of 1,3-dithiane (15.42 g, 128 mmol) at -20°. After stirring for 2.5 hours at -20°, the solution was cooled to -78° and 1-iodopropane (12.5 ml, 128 mmol) was added to it in one portion. The reaction mixture was left for gradual warming (-78° to 0° C.) and overnight stirring (19 hours). Tetrahydrofuran was removed on the rotary evaporator, residue taken in ether (250 ml) and washed with water (200 ml). The aqueous layer was reextracted with ether (250 ml). Combined ethereal extracts were washed sequentially once with water, once with saturated sodium chloride, dried over anhydrous sodium sulfate and concentrated to give a yellow oil which on distillation under vacuum yielded 19.310 g of the title A compound.

reactant | n-Butyl lithium | 141 mmol, 2.5M, 56.32 ml | C(CCC)[Li]
reactant | 1,3-dithiane | 128 mmol, 15.42 g | S1CSCCC1 | C4H8S2
reactant | 1-iodopropane | 128 mmol, 12.5 ml | ICCC | C3H7I
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 2-Propyl-1,3-dithiane | C(CC)C1SCCCS1 | C7H14S2
